US04816452
d. 2-(2-Aminothiazol-4-yl)-(Z)-2-(decahydronaphth-2-yloxyimino) acetic acid
Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(decahydronaphth-2-yloxyimino)acetate (0.48 g) was hydrolysed as described in Example 4e to give the title compound (0.35 g), νmax (KBr) 3118, 2920, 1625, and 1013 cm-1, δH [(CD3)2SO]0.8-2.1 (16H, m), 4.06 (1H, m), 6.82 (1H, s), and 7.26 (3H, br s).

reactant | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(decahydronaphth-2-yloxyimino)acetate | 0.48 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC1CC2CCCCC2CC1 | C17H25N3O3S
reactant | KBr | [K+].[Br-]
product | 2-(2-Aminothiazol-4-yl)-(Z)-2-(decahydronaphth-2-yloxyimino) acetic acid | 0.35 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OC1CC2CCCCC2CC1 | C15H21N3O3S
